US04342765
To a solution of 2-guanidino-4-(3-aminocyclohexyl)thiazole (0.6 g.) in ethanol (20 ml) was added methylisothiocyanate (0.18 g.) and the resulting solution was heated under reflux for two hours. The residue obtained on evaporation of the ethanol was subjected to column chromatography on silica gel (Kiesilgel 60, Merck) using chloroform/methanol/ammonia (s.g. 0.88) 8:2:0.3 v/v/v for development. The product, 2-guanidino-4-[3-(3-methylthioureido)cyclohexyl]thiazole, (0.4 g.) was obtained as a glass. The n.m.r. spectrum, in d6 dimethylsulphoxide, included resonances at 1.2-2.2(m,9H);2.8(d,3H); 4.0(m,1H); 6.2(s,1H); 6.8(br s,4H); and 7.2(br d,2H).

reactant | 2-guanidino-4-(3-aminocyclohexyl)thiazole | 0.6 g | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)N | C10H17N5S
reactant | methylisothiocyanate | 0.18 g | CN=C=S | C2H3NS
reactant | chloroform methanol ammonia | C(Cl)(Cl)Cl.CO.N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-guanidino-4-[3-(3-methylthioureido)cyclohexyl]thiazole | N(C(=N)N)C=1SC=C(N1)C1CC(CCC1)NC(=S)NC | C12H20N6S2
